US05760021
II. Synthesis of Ethyl 2-Diethoxyphosphinyl-2-hydroxy-4-(2-pyridylamino)butanoate
A mixture of 3.36 g (0.01 mole) of ethyl 2-oxo-4-(2-pyridylamino)butanoate in 6.9 g (0.05 mole) of diethyl phosphite is stirred at 20°-30° for 4 days. The excess diethyl phosphite is removed under vacuum on a rotary evaporator, and the crude product is purified by flash chromatography on silica gel using chloroform/ethanol as eluant.

reactant | ethyl 2-oxo-4-(2-pyridylamino)butanoate | 0.01 mole, 3.36 g | O=C(C(=O)OCC)CCNC1=NC=CC=C1 | C11H14N2O3
reactant | diethyl phosphite | 0.05 mole, 6.9 g | P(OCC)(OCC)[O-]
product | Ethyl 2-Diethoxyphosphinyl-2-hydroxy-4-(2-pyridylamino)butanoate | C(C)OP(=O)(C(C(=O)OCC)(CCNC1=NC=CC=C1)O)OCC | C15H25N2O6P
